US08664401B2
To a flask containing 3-(4-iodophenoxy)propan-1-ol (316 mg, 1.14 mmol) (see Qu, W. et. al. Journal of Medicinal Chemistry (2007), 50, 3380-3387), bis(pinacolato)diboron (397 mg, 1.56 mmol), potassium acetate (338 mg, 3.41 mmol), and [1,1′-bis-(diphenylphosphino)ferrocene]-dichloropalladium (II) dichloromethane complex (83.4 mg, 0.114 mmol) was added degassed 1,4-dioxane (9.0 mL). The reaction was heated at 80° C. under nitrogen overnight. The reaction was cooled and diluted with ethyl acetate and water. The organic layer was separated, dried over magnesium sulfate, filtered, and concentrated in vacuo to give a black solid. Chromatography on silica gel with heptane-ethyl acetate (40% ethyl acetate) gave 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]propan-1-ol as a clear oil (212.5 mg, 67.2%). 1H NMR (400 MHz, CDCl3, δ ppm 1.24 (s, 12H), 2.02 (m, 2H), 3.84 (m, 2H), 4.06 (t, J=6.05, 2H), 6.66 (d, J=8.59, 2H), 7.53 (d, J=8.98, 2H).

reactant | 3-(4-iodophenoxy)propan-1-ol | 1.14 mmol, 316 mg | IC1=CC=C(OCCCO)C=C1 | C9H11IO2
reactant | bis(pinacolato)diboron | 1.56 mmol, 397 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.41 mmol, 338 mg | C(C)(=O)[O-].[K+]
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]propan-1-ol | 212.5 mg, 67.2% | CC1(OB(OC1(C)C)C1=CC=C(OCCCO)C=C1)C | C15H23BO4
